US05958942
iii) Synthesis of 2-phenyl-5-[N-[5-(trifluoromethane-sulfonamido)pentan-1-yl]aminomethyl]imidazo[1,2-a]pyridine
To a suspension of 2.79 g (10.0 mmol) of 2-phenyl-5-chloromethylimidazo[1,2-a]pyridine·hydrochloride in 35 ml of acetonitrile was added 2.04 g (20.0 mmol) of 1,5-diaminopentane. The mixture was heated for 30 minutes under reflux. After completion of the reaction, the reaction mixture was cooled. The resulting precipitate of 1,5-diaminopentane-dihydrochloride was separated by filtration and washed twice with 10 ml of acetonitrile. The filtrate and washings were combined, to which was added 2.8 ml (20.0 mmol) of triethylamine. The mixture was stirred sufficiently, to which was added 4.29 g (12.0 mmol) of N-phenyltrifluoromethanesulfonimide, and the mixture was stirred for two hours at room temperature. After completion of the reaction, the solvent was distilled off under reduced pressure. The residue was subjected to extraction with 100 ml of chloroform. The organic layer was washed with 100 ml of a saturated aqueous saline solution and dried over magnesium sulfate. Then, the solvent was distilled off under reduced pressure. The residue was purified by silicagel column chromatography (eluent: chloroform/methanol=20:1) to give 2.66 g of the desired compound (60.3%, colorless solid).

reactant | 2-phenyl-5-chloromethylimidazo[1,2-a]pyridine·hydrochloride | 10.0 mmol, 2.79 g | C1(=CC=CC=C1)C=1N=C2N(C(=CC=C2)CCl)C1.Cl
reactant | 1,5-diaminopentane | 20.0 mmol, 2.04 g | NCCCCCN | C5H14N2
reactant | triethylamine | 20.0 mmol, 2.8 ml | C(C)N(CC)CC | C6H15N
reactant | N-phenyltrifluoromethanesulfonimide | 12.0 mmol, 4.29 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | acetonitrile | 35 ml | C(C)#N | C2H3N
product | 2-phenyl-5-[N-[5-(trifluoromethane-sulfonamido)pentan-1-yl]aminomethyl]imidazo[1,2-a]pyridine | 2.66 g, 60.3% | C1(=CC=CC=C1)C=1N=C2N(C(=CC=C2)CNCCCCCNS(=O)(=O)C(F)(F)F)C1 | C20H23F3N4O2S
